US08389771B2
Deprotection of 2-(4-(3-(tetrahydro-2H-pyran-2-yloxy)phenyl)butyl)isoindoline-1,3-dione with hydrazine monohydrate following the method used in Example 17 except that the reaction mixture was heated at +50° C. for 16 hrs afforded 4-(3-(tetrahydro-2H-pyran-2-yloxy)phenyl)butan-1-amine as a colorless oil, which was used in the next step without purification.

reactant | 2-(4-(3-(tetrahydro-2H-pyran-2-yloxy)phenyl)butyl)isoindoline-1,3-dione | O1C(CCCC1)OC=1C=C(C=CC1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C23H25NO4
reactant | hydrazine monohydrate | O.NN
product | 4-(3-(tetrahydro-2H-pyran-2-yloxy)phenyl)butan-1-amine | O1C(CCCC1)OC=1C=C(C=CC1)CCCCN | C15H23NO2
